US20010027196A1
2-Amino-4-dimethylamino-6-furan-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-(2-furyl)-6-(methylthio)-5-pyrimidinecarbonitrile and dimethylamine in ethanol. EI-MS m/e (%): 229 (M+, 49), 228 ([M—H]+, 100), 214 (3)8), 200 (48), 44 (44).

reactant | 2-amino-4-(2-furyl)-6-(methylthio)-5-pyrimidinecarbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)SC | C10H8N4OS
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-4-dimethylamino-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)N(C)C)C#N)C=1OC=CC1 | C11H11N5O
